US07772243B2
Step 1: 4-Piperidin-1-yl-but-2-enoic acid methyl ester
Methyl 4-bromocrotonate (2 g, 11.2 mmol) was dissolved in dichloromethane (20 mL) and cooled to 0° C. Piperidine (1.11 mL, 11.2 mmol) was added slowly. The mixture was stirred at 0° C. for 1 hour. The solvent was removed in vacuo. The crude material was used as is. MS m/z 184 (M+1).

reactant | Methyl 4-bromocrotonate | 11.2 mmol, 2 g | BrC/C=C/C(=O)OC | C5H7BrO2
reactant | Piperidine | 11.2 mmol, 1.11 mL | N1CCCCC1 | C5H11N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-Piperidin-1-yl-but-2-enoic acid methyl ester | COC(C=CCN1CCCCC1)=O | C10H17NO2
